US04618713
A solution of 2.02 g (7.06 mmol) of 2'-(chloromethyl)-6'-(trifluoromethyl)-2-chloroacetanilide and 1.0 ml (7.2 mmol) of triethylamine in 60 ml of ethyl acetate was shaken with 79.8 mg of 10% Pd/C under an initial H2 pressure of 50 psi. After 19 hr., the mixture was filtered and evaporated to give 1.57 g of 2'-methyl-6'-(trifluoromethyl)-2-chloroacetanilide assaying 94.2% (yield 83.3%) and contaminated with 1.3% of overreduced product.

reactant | 2'-(chloromethyl)-6'-(trifluoromethyl)-2-chloroacetanilide | 7.06 mmol, 2.02 g | ClCC1=C(NC(CCl)=O)C(=CC=C1)C(F)(F)F | C10H8Cl2F3NO
reactant | triethylamine | 7.2 mmol, 1.0 ml | C(C)N(CC)CC | C6H15N
solvent | ethyl acetate | 60 ml | C(C)(=O)OCC | C4H8O2
catalyst | Pd/C | 79.8 mg | [Pd] | Pd
product | 2'-methyl-6'-(trifluoromethyl)-2-chloroacetanilide | 1.57 g, yield 83.3% | CC1=C(NC(CCl)=O)C(=CC=C1)C(F)(F)F | C10H9ClF3NO
